US05733912
25b. 7a-(5-phenyl-3-pyridinyl)-hexahydro-1H-pyrrolizine
3-Bromo-3-phenylpyridine (200 mg, 0.85 mmol) was dissolved in Et2O and cooled to -30° C. A solution of 2.5M t-BuLi (1.1 mL, 1.90 mmol) in pentane was added, and the reaction was stirred for 10 minutes. 1,2,3,5,6,7-Hexahydropyrrolizinium perchlorate (230 mg, 1.30 mmol) was added, and the reaction mixture was allowed to stir for 30 minutes at -30° C. then allowed to warm to room temperature and stir for 1 hour. Then 2N HCl was added, the phases were separated, and the aqueous phase was basified with 15% NaOH and extracted with CH2Cl2 (2×). The organic phases were combined, dried (MgSO4) and concentrated, and the residue was chromatographed (silica gel; CHCl3 /MeOH, 95:5) to afford a clear oil (32.5 mg).

reactant | 3-Bromo-3-phenylpyridine | 0.85 mmol, 200 mg | BrC1(CN=CC=C1)C1=CC=CC=C1 | C11H10BrN
reactant | t-BuLi | 1.90 mmol, 2.5M, 1.1 mL | [Li]C(C)(C)C
reactant | 1,2,3,5,6,7-Hexahydropyrrolizinium perchlorate | 1.30 mmol, 230 mg | Cl(=O)(=O)(=O)[O-].C1CC[N+]=2CCCC12
reactant | HCl | 2N | Cl | ClH
solvent | Et2O | CCOCC | C4H10O
solvent | pentane | CCCCC | C5H12
product | 7a-(5-phenyl-3-pyridinyl)-hexahydro-1H-pyrrolizine | 32.5 mg | C1(=CC=CC=C1)C=1C=C(C=NC1)C12CCCN2CCC1 | C18H20N2
